US04602027
Benzyl 5-methyl-2-(1-methylcyclohexyl)-4-oxazoleacetate (1.0 g) was dissolved in ethanol (3 ml), and 2N sodium hydroxide (3 ml) was added. The mixture was heated on a water bath at 90° C. for 5 minutes, diluted with water and washed with ethyl ether. The aqueous layer was adjusted to pH 2 with hydrochloric acid and extracted with ethyl ether. The ethyl ether extract was washed with water and dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was recrystallized from hexane to give 5-methyl-2-(1-methylcyclohexyl)-4-oxazoleacetic acid as crystals; yield 0.41 g (56.9%). Mp 66°-67° C. The IR and NMR spectra of this product were in good agreement with those of the compound obtained in Example 15.

reactant | Benzyl 5-methyl-2-(1-methylcyclohexyl)-4-oxazoleacetate | 1.0 g | CC1=C(N=C(O1)C1(CCCCC1)C)CC(=O)OCC1=CC=CC=C1 | C20H25NO3
reactant | sodium hydroxide | 2N, 3 ml | [OH-].[Na+]
solvent | ethanol | 3 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 5-methyl-2-(1-methylcyclohexyl)-4-oxazoleacetic acid | CC1=C(N=C(O1)C1(CCCCC1)C)CC(=O)O | C13H19NO3
